US08227469B2
N-{4-[6-(4-Trifluoromethyl-cyclohex-1-enyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-acetamide.
To a suspension of 4-[6-(4-trifluoromethyl-cyclohex-1-enyl)-pyrimidin-4-yloxy]-benzothiazol-2-ylamine, Example 1(e), (85 mg, 0.22 mmol) in toluene was added acetic anhydride (82 μL, 0.86 mmol). The mixture was heated at 90° C. with stirring for 1 h. The reaction mixture was allowed to cool to room temperature and evaporated in vacuo to give the title compound as a white solid. MS (ESI, pos. ion.) m/z: 435 (M+1).

reactant | 4-[6-(4-trifluoromethyl-cyclohex-1-enyl)-pyrimidin-4-yloxy]-benzothiazol-2-ylamine | FC(C1CC=C(CC1)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N)(F)F | C18H15F3N4OS
reactant | acetic anhydride | 0.86 mmol, 82 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{4-[6-(4-Trifluoromethyl-cyclohex-1-enyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-acetamide | FC(C1CC=C(CC1)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)(F)F | C20H17F3N4O2S
